US04788195
N-(4-Methoxyphenyl)-N-methyl-4-(3-pyridinyl)-2-pyrimidinamine
A 2.78 g portion of N-(4-methoxyphenyl)-4-(3-pyridinyl)-2-pyrimidinamine was dissolved in 30 ml of dimethylformamide. A 528 mg portion of sodium hydride (50% in oil) was added, the reaction sealed and stirred for 45 minutes. A solution of 1.70 g of methyl iodide in 2 ml of dimethylformamide was added, the sealed mixture was stirred overnight and the solvent removed. The residue was partitioned between water and chloroform. The organic phase was dried, filtered and evaporated. The residue was crystallized from ether-hexane giving 1.4 g of the desired product as yellow crystals, mp 88°-90° C.

reactant | N-(4-methoxyphenyl)-4-(3-pyridinyl)-2-pyrimidinamine | COC1=CC=C(C=C1)NC1=NC=CC(=N1)C=1C=NC=CC1 | C16H14N4O
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 1.70 g | CI | CH3I
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(4-Methoxyphenyl)-N-methyl-4-(3-pyridinyl)-2-pyrimidinamine | COC1=CC=C(C=C1)N(C1=NC=CC(=N1)C=1C=NC=CC1)C | C17H16N4O
